US06022492
Synthesis of 2-(2,3-difluoro-4-hexyloxyphenyl)-5-(6-octyloxypyridin-3-yl)pyrimidine
The etherification of 2.4 mmol of 2-(2,3-difluoro-4-hydroxyphenyl)-5-(6-octyloxypyridin-3-yl)pyrimidine using 2.7 mmol of 1-bromohexane is carried out analogously to the procedure indicated in Example 3. Corresponding purification gives 0.88 g (73%) of colorless crystals, X 81.5 S3 75.5 SC 165.6 SA 174 I.

reactant | 2-(2,3-difluoro-4-hydroxyphenyl)-5-(6-octyloxypyridin-3-yl)pyrimidine | 2.4 mmol | FC1=C(C=CC(=C1F)O)C1=NC=C(C=N1)C=1C=NC(=CC1)OCCCCCCCC | C23H25F2N3O2
reactant | 1-bromohexane | BrCCCCCC | C6H13Br
product | 2-(2,3-difluoro-4-hexyloxyphenyl)-5-(6-octyloxypyridin-3-yl)pyrimidine | 0.88 g, 73% | FC1=C(C=CC(=C1F)OCCCCCC)C1=NC=C(C=N1)C=1C=NC(=CC1)OCCCCCCCC | C29H37F2N3O2
